US08022206B2
tert-Butyl 4-(4-{7-[1-(2,6-dichloro-3,5-difluorophenyl)ethoxy]-6-nitrofuro[3,2-c]pyridin-3-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate
1-(2,6-Dichloro-3,5-difluorophenyl)ethanol (133 mg, 0.586 mmol), 4-[4-(7-Hydroxy-6-nitrofuro[3,2-c]pyridin-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (250 mg, 0.52 mmol), PPh3 (410 mg, 1.60 mmol) and THF (20 mL) was added to a dry round bottom flask. Diisopropyl azodicarboxylate (320 mg, 1.60 mmol) was added and the reaction mixture was heated at 40° C. More DIAD (320 mg, 1.60 mmol) was then added and the reaction mixture was heated at 40° C. for 2 h. Purification by flash column chromatography using 10%→40% EtOAc in hexanes afforded the title compound as a yellow solid. MS (ES+): m/z 581.88/583.80 (100/80) [MH+−isobutene]. HPLC: tR=4.29 min (ZQ3, polar—5 min).

reactant | 1-(2,6-Dichloro-3,5-difluorophenyl)ethanol | 0.586 mmol, 133 mg | ClC1=C(C(=C(C=C1F)F)Cl)C(C)O | C8H6Cl2F2O
reactant | 4-[4-(7-Hydroxy-6-nitrofuro[3,2-c]pyridin-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=COC2=C1C=NC(=C2O)[N+](=O)[O-] | C20H23N5O6
reactant | PPh3 | 1.60 mmol, 410 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Diisopropyl azodicarboxylate | 1.60 mmol, 320 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | DIAD | 1.60 mmol, 320 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-{7-[1-(2,6-dichloro-3,5-difluorophenyl)ethoxy]-6-nitrofuro[3,2-c]pyridin-3-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate | ClC1=C(C(=C(C=C1F)F)Cl)C(C)OC=1C2=C(C=NC1[N+](=O)[O-])C(=CO2)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C28H27Cl2F2N5O6
